US05925339
150 g di-tert.butyldicarbonate in 300 ml dioxane were added slowly at 0°C. to 100 g L-glutamin in 500 ml water and 207.5 g triethylamin. After stirring overnight, the organic solvents were removed and the residue was brought to pH 1 with conc. HCl. The aqueous phase was extracted several times with ethylacetate and the combined organic phases were then washed with water and brine before being evaporated. 147 g BOC-glutamine were obtained as a colorless glass.

reactant | di-tert.butyldicarbonate | 150 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | L-glutamin | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 500 ml | O | H2O
solvent | triethylamin | 207.5 g | C(C)N(CC)CC | C6H15N
product | BOC-glutamine | 147 g | C(=O)(OC(C)(C)C)N[C@@H](CCC(N)=O)C(=O)O | C10H18N2O5
